US07511050B2
Step B: benzyl [(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]carbamate
The solution of benzyl 2-oxo-2-[(2E)-2-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazino]ethylcarbamate (0.60 g, 0.84 mmol) in toluene (30 mL) was refluxed overnight. M+H=410.1. The product was precipitated from the reaction mixture and filtered to give the desired product (300 mg, 87%). LCMS calculated for C20H24N7O3(M+H): 410.2; found: 410.2.

reactant | benzyl 2-oxo-2-[(2E)-2-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazino]ethylcarbamate | 0.84 mmol, 0.60 g | O=C(CNC(OCC1=CC=CC=C1)=O)N/N=C/1\NC(C=2NC=NC2N1CCCCC)=O | C20H25N7O4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl [(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]carbamate | 300 mg, 87% | O=C1C=2NC=NC2N(C=2N1C(=NN2)CNC(OCC2=CC=CC=C2)=O)CCCCC | C20H23N7O3
